* Z:\home\miguel\Universidad\primero\Electronica\114.asc
* Generated by LTspice 24.1.9 for Windows.
D1 N001 N002 QTLP690C
R1 N002 0 1K
Vi N001 0 PULSE(-8 8 0 50u 50u 0u 100u)
.model D D
.lib C:\users\miguel\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 200u
* .dc Vi -8 8 0.05
.backanno
.end
