* C:\Users\Usuario\OneDrive - Universidad de Málaga\Universidad\1º\Recuperaciones\Electronica\p3\123.asc
* Generated by LTspice 24.1.10 for Windows.
Rb N004 N003 1K
Vi N003 0 PULSE(0 5 0 50n 50n 5u 10u)
Vcc N001 0 5
Rc N001 N002 1K
Q1 N002 N004 0 0 2N2222
.model NPN NPN
.model PNP PNP
.lib C:\Users\Usuario\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 20u
.backanno
.end
